US08710243B2
3-(4-methoxyphenyl)-1H-indole was dissolved in 4 ml DCM. NBS (0.9 eq) was added in small portions over 2 min. The solvent was concentrated and the crude product was purified using HPLC (MeCN/H2O gradient). 103.3 mg 2-bromo-3-(4-methoxyphenyl)-1H-indole was obtained as a white solid.

reactant | 3-(4-methoxyphenyl)-1H-indole | COC1=CC=C(C=C1)C1=CNC2=CC=CC=C12 | C15H13NO
reactant | NBS | 0.9 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-(4-methoxyphenyl)-1H-indole | 103.3 mg | BrC=1NC2=CC=CC=C2C1C1=CC=C(C=C1)OC | C15H12BrNO
